### PR TITLE
[Merged by Bors] - chore(AlgebraicGeometry/ProjectiveSpectrum/Scheme): Tidy & golf

### PR DESCRIPTION
**Pull request by erdOne**
---

Sill missing a lot of (d)simp lemmas :(

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/ProjectiveSpectrum/Scheme.lean [hunk 1]
```diff
@@ -155,164 +155,67 @@ For any `x` in `Proj| (pbo f)`, the corresponding ideal in `Spec A⁰_f`. This f
...
-    erw [show (Localization.mk s ⟨f ^ l, ⟨_, rfl⟩⟩ : Localization.Away f) =
-      (Localization.mk 1 ⟨f^l, ⟨_, rfl⟩⟩ : Localization.Away f) * Localization.mk s 1 by
-      rw [Localization.mk_mul, mul_one, one_mul]]
-    exact Ideal.mul_mem_left _ _ <| Ideal.subset_span ⟨s, hs, rfl⟩
+theorem mem_carrier_iff_exists (z : A⁰_ f) :
+    z ∈ carrier x ↔ ∃ y ∈ x.1.asHomogeneousIdeal, ∃ n, f ^ n • z.val = algebraMap _ _ y := by
+  rw [carrier, Ideal.mem_comap, isLocalization.mem_map_algebraMap_iff]
+  simp [Submonoid.mem_powers_iff, mul_comm z.val, Algebra.smul_def]
+
+theorem MemCarrier.eventually_mem_ideal {z : A⁰_ f} (hz : z ∈ carrier x) :
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/ProjectiveSpectrum/Scheme.lean:166]: Maybe `eventually_mem_ideal_of_mem_carrier` instead, since the namespace does not enable dot notation.

Comment (jcommelin) [reply Mathlib/AlgebraicGeometry/ProjectiveSpectrum/Scheme.lean:166]: I think both are fine

**Review by jcommelin — COMMENTED** [review]
Thanks a lot for doing this!

Let's bench it and merge afterwards if it isn't a slowdown. (I expect a speedup.)

**Comment by jcommelin** [comment]
!bench

**Comment by jcommelin** [comment]
bors d+

**Comment by erdOne** [comment]
I'll wait for @jjaassoonn before merging.

**Comment by jjaassoonn** [comment]
Thanks for tidying the files up! LGTM
